US04649142
To a suspension of 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone (26.1 g) in N,N-dimethylformamide (350 ml) were added potassium tert. butoxide (9.2 g) and ethyl bromoacetate (13.7 g) at room temperature. The mixture was stirred overnight. After neutralization with diluted hydrochloric acid, the mixture was evaporated and chromatographed on silica gel using chloroform. Fractions containing the object compound were evaporated and the residue was triturated in ethanol to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1-ethoxycarbonylmethyl-methyl-4(2,4,6-trimethylphenylimino)-2(1H)pyrimidinone (15.3 g). mp. 112°-113° C.

reactant | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 26.1 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1)=O)C)=NC1=C(C=C(C=C1C)C)C | C22H25N3O3
reactant | potassium tert. butoxide | 9.2 g | CC(C)([O-])C.[K+]
reactant | ethyl bromoacetate | 13.7 g | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1-ethoxycarbonylmethyl-methyl-4(2,4,6-trimethylphenylimino)-2(1H)pyrimidinone | 15.3 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1CC(=O)OCC)=O)C)=NC1=C(C=C(C=C1C)C)C | C26H31N3O5
